US05688954
A solution of (S)-2-(3-pyridyl)tetrahydro-2H-thiopyran (0.6 g) and copper (II) acetylacetonate (0.8 g) in ethanol (15 ml) is treated with hydrogen peroxide (2 ml; 27.5%), in 0.5 ml portions during a 20 hour period. Two hours after the final addition the reaction mixture is diluted with ethyl acetate (30 ml) and washed with saturated brine (2×30 ml). The combined brine washes are then extracted with ethyl acetate (3×30 ml), the combined ethyl acetate phases are dried over magnesium sulphate, filtered and evaporated under reduced pressure, to give (1R,2S)-2-(3-pyridyl)tetrahydro-2H-thiopyran 1-oxide (0.5 g), in the form of a white solid, m.p. 131° C. [NMR (CDCl3): 8.7(s,2H), 7.7(d,1H); 7.3(s,1H); 3.6(dd,2H); 2.8(t,1H); 2.3-1.5(m,6H). Elemental analysis: C,61.3; H,6.7; N,6.9; S,16.5.%; calculated: C,61.5; H,6.7; N,7.1; S,16.4%.]

reactant | (S)-2-(3-pyridyl)tetrahydro-2H-thiopyran | 0.6 g | N1=CC(=CC=C1)[C@H]1SCCCC1 | C10H13NS
reactant | hydrogen peroxide | 2 ml | OO | H2O2
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
catalyst | copper (II) acetylacetonate | 0.8 g | C/C(=C/C(=O)C)/O.C/C(=C/C(=O)C)/O.[Cu]
product | (1R,2S)-2-(3-pyridyl)tetrahydro-2H-thiopyran 1-oxide | 0.5 g | N1=CC(=CC=C1)[C@H]1[S@@](CCCC1)=O | C10H13NOS
